US07727988B2
5-(4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrocholoride (E24)
5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep40, 46 mg, 0.09 mmol) was dissolved in degassed DME-water solution (5-1, 1 mL). Pyridine 4-boronic acid (22 mg, 0.18 mmol), Na2CO3 (20 mg, 0.18 mmol), 2-(dicyclohexylphosphino)biphenyl (7 mg, 0.02 mmol) and Pd(PPh3)4 (20 mg, 0.02 mmol) were added and the mixture was placed in a microwave oven and heated at 150° for 20 minutes. The mixture was diluted with ethyl acetate, and washed with water. The organic phase was dried (Na2SO4) and evaporated; the crude was dissolved in MeOH and loaded on SCX cartridge washing with MeOH and eluting with MeOH/NH3 95:5. The residue was purified by flash chromatography with DCM-MeOH—NH4OH (99-1-0.1) to give the title compound (13 mg, 32% yield) as free base.

reactant | 5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 0.09 mmol, 46 mg | IC=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H19F3IN3O2
reactant | Pyridine 4-boronic acid | 0.18 mmol, 22 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 0.18 mmol, 20 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.02 mmol, 7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | DME water | 1 mL | COCCOC.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | 13 mg, 32% yield | N1=CC=C(C=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H23F3N4O2
